US05519015
Allyl 2-nitro-4-thiophenecarboxylate
2-Nitro-4-thiophenecarboxylic acid (2.5 g, 14.45 mmol) was suspended in DMF (25 ml) in the presence of potassium carbonate (4 g, 28.9 mmol) at ambient temperature. Allyl bromide (5 ml, 57.8 mmol) was added to this solution and the mixture stirred at ambient temperature overnight. The mixture was diluted with water and extracted with ethyl acetate. After concentration, the residue was purified by silica gel chromatography using ethyl acetate/petroleum ether as eluant (10:30) to give the title compound (2.45 g, 77%).

reactant | 2-Nitro-4-thiophenecarboxylic acid | 14.45 mmol, 2.5 g | [N+](=O)([O-])C=1SC=C(C1)C(=O)O | C5H3NO4S
reactant | potassium carbonate | 28.9 mmol, 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | Allyl bromide | 57.8 mmol, 5 ml | C(C=C)Br | C3H5Br
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Allyl 2-nitro-4-thiophenecarboxylate | 2.45 g, 77% | [N+](=O)([O-])C=1SC=C(C1)C(=O)OCC=C | C8H7NO4S
